### PR TITLE
Refactor ModularArithmetic into Zmod, expand Decidable

### PR DESCRIPTION
**Pull request by andres-erbsen**
ModularArithmetic now uses Algebra lemmas in various places instead of
custom manual proofs. Similarly, Util.Decidable is used to state and
prove the relevant decidability results.

Backwards-incompatible changes:

F_some_lemma -> Zmod.some_lemma
Arguments ZToField _%Z _%Z : clear implicits.
inv_spec says inv x * x = 1, not x * inv x = 1

### CODE REVIEW

File: src/Util/Decidable.v [hunk 1]
```diff
@@ -47,9 +50,11 @@ Hint Extern 0 (Decidable (~?A)) => apply (@dec_not A) : typeclass_instances.
 Global Instance dec_eq_unit : DecidableRel (@eq unit) | 10. exact _. Defined.
 Global Instance dec_eq_bool : DecidableRel (@eq bool) | 10. exact _. Defined.
 Global Instance dec_eq_Empty_set : DecidableRel (@eq Empty_set) | 10. exact _. Defined.
-Global Instance dec_eq_nat : DecidableRel (@eq nat) | 10. exact _. Defined.
 Global Instance dec_eq_prod {A B} `{DecidableRel (@eq A), DecidableRel (@eq B)} : DecidableRel (@eq (A * B)) | 10. exact _. Defined.
 Global Instance dec_eq_sum {A B} `{DecidableRel (@eq A), DecidableRel (@eq B)} : DecidableRel (@eq (A + B)) | 10. exact _. Defined.
+Global Instance dec_eq_nat : DecidableRel (@eq nat) | 10. exact _. Defined.
```
Comment (andres-erbsen) [inline src/Util/Decidable.v]: Should these have weithts?

Comment (JasonGross) [inline src/Util/Decidable.v]: You might as well put them at `10` with all the others; if I recall correctly, the reason for the weights is so that hints in the context always get picked up before these.  (Or else because I tried not giving them weights, and everything was sad.)

File: src/Util/Decidable.v [hunk 2]
```diff
@@ -60,5 +65,28 @@ Proof. solve_decidable_transparent. Defined.
...
 
+Lemma eqsig_eq {T} {U} {Udec:DecidableRel (@eq U)} (f g:T->U) (x x':T) pf pf' :
+  (exist (fun x => f x = g x) x pf) = (exist (fun x => f x = g x) x' pf') <-> (x = x').
+Proof. split; intros; [congruence | subst x'; apply f_equal, UIP_dec, Udec]. Qed.
+
+Global Instance dec_eq_eqsig
+       {T} {Tdec:DecidableRel (@eq T)}
+       {U} {Udec:DecidableRel (@eq U)}
+       (f g:T->U)
+  : DecidableRel (@eq (sig (fun x => f x = g x))).
```
Comment (JasonGross) [inline src/Util/Decidable.v]: There's a better factoring of this:
```coq
dec_eq_lift : forall {A} {Adec : DecidableRel (@eq A)} (x y : A) : DecidableRel (@eq (x = y))
dec_eq_sig : forall {A} {P : A -> Prop} {Adec : DecidableRel (@eq A)} {Pdec : forall a, DecidableRel (@eq (P a))}, DecidableRel (@eq (@sig A P))
```
The first by `UIP_dec`, the second straightforwardly.  Then this lemma should be automatically solved by typeclass resolution.

Comment (andres-erbsen) [inline src/Util/Decidable.v]: `eqsig_eq` is also used at https://github.com/mit-plv/fiat-crypto/pull/40/files#diff-4205713a9165d6688fb39119d18336deR64, https://github.com/mit-plv/fiat-crypto/pull/40/files#diff-4205713a9165d6688fb39119d18336deR43. Should I move it somewhere else, just prove it differently, or use a different lemma?

Comment (JasonGross) [inline src/Util/Decidable.v]: I've just pushed `Util.Sigma` with
```coq
path_sig_hprop_iff : forall {A} {P : A -> Prop} (P_hprop : forall (x : A) (p q : P x), p = q) (u v : @sig A P),
 u = v <-> (proj1_sig u = proj1_sig v)
```
Composing this with `UIP_dec` and `Udec` will give you `eqsig_eq` trivially (feel free to do this in this file, if you really need to).

Let me see if I can extend the automation in this file to handle `dec_eq_lift` (or maybe `dec_eq_eq`) and `dec_eq_sig`; I'd suggest dropping `dec_eq_eqsig` and letting it be resolved by typeclasses automatically whenever it's needed.

Comment (JasonGross) [inline src/Util/Decidable.v]: I've pushed enough instances to automatically resolve `dec_eq_eqsig` by typeclasses (though not in `Decidable.v`, where `Local Hint Extern 0 => solve [ solve_decidable_transparent ] : typeclass_instances.` seems to loop on this goal).

Want to rebase, drop `dec_eq_eqsig`, and re-prove `eqsig_eq` using `path_sig_hprop_iff`?

File: src/Experiments/SpecEd25519.v [hunk 3]
```diff
@@ -8,44 +8,43 @@ Require Import Crypto.ModularArithmetic.PrimeFieldTheorems Crypto.ModularArithme
...
 Lemma two_lt_q : (2 < q)%Z. Proof. reflexivity. Qed.
-Lemma char_gt_2 : (1 + 1 <> (0:F q))%F. Proof. rewrite F_eq; compute; discriminate. Qed.
+Lemma char_gt_2 : (1 + 1 <> (0:F q))%F. vm_decide_no_check. Qed.
 
 Definition a : F q := opp 1%F.
-Lemma nonzero_a : a <> 0%F. Proof. rewrite F_eq; compute; discriminate. Qed.
+Lemma nonzero_a : a <> 0%F. Proof. vm_decide_no_check. Qed.
 Lemma square_a : exists b, (b*b=a)%F.
-Proof. setoid_rewrite <-F_pow_2_r. apply (minus1_is_square _); reflexivity. Qed.
+Proof. pose (@Zmod.Decidable_square q _ two_lt_q a); vm_decide_no_check. Qed.
```
Comment (andres-erbsen) [inline src/Experiments/SpecEd25519.v]: @JasonGross this used to work before the `hprop`-based decidability stuff came in, and now the left hand side does not compute fully. Help me out?

Comment (JasonGross) [inline src/Experiments/SpecEd25519.v]: Fixed by bcd963fb43b08f5154d4891845292524e2cad02e

**Comment by jadephilipoom** [comment]
lgtm

File: src/Algebra.v [hunk 4]
```diff
@@ -364,6 +357,23 @@ Module ScalarMult.
...
+      match n with
+      | O => zero
+      | S n' => add P (scalarmult_ref n' P)
+      end.
+
+    Global Instance Proper_scalarmult_ref : Proper (Logic.eq==>eq==>eq) scalarmult_ref.
+    Proof.
+      repeat intro; subst.
+      match goal with [n:nat |- _ ] => induction n; simpl @scalarmult_ref; [reflexivity|] end.
+      repeat match goal with [H:_ |- _ ] => rewrite H end; reflexivity.
```
Comment (JasonGross) [inline src/Algebra.v]: An alternative from `Crypto.Util.Tactics`: `rewrite_hyp !*; reflexivity` (or `repeat rewrite_hyp *; reflexivity`)

File: src/Algebra.v [hunk 5]
```diff
@@ -364,6 +357,23 @@ Module ScalarMult.
...
+    Qed.
+
+    Lemma scalarmult_ext : forall n P, mul n P = scalarmult_ref n P.
```
Comment (JasonGross) [inline src/Algebra.v]: No `Proof.`?

File: src/Encoding/ModularWordEncodingTheorems.v [hunk 6]
```diff
@@ -35,20 +35,13 @@ Section SignBit.
     rewrite sign_bit_parity; auto.
   Qed.
 
-  Lemma sign_bit_opp : forall (x : F m), x <> 0 -> negb (@sign_bit m sz x) = @sign_bit m sz (opp x).
+  Lemma odd_m : Z.odd m = true. Admitted.
```
Comment (JasonGross) [inline src/Encoding/ModularWordEncodingTheorems.v]: There's no lemma that says that every prime is either 2 or odd?  (Or that if something is not odd, then it's divisible by 2, and that the only prime divisible by 2 is 2?)

File: src/Experiments/SpecEd25519.v [hunk 7]
```diff
@@ -8,44 +8,43 @@ Require Import Crypto.ModularArithmetic.PrimeFieldTheorems Crypto.ModularArithme
 Require Import Crypto.Util.NatUtil Crypto.Util.ZUtil Crypto.Util.WordUtil Crypto.Util.NumTheoryUtil.
 Require Import Bedrock.Word.
 Require Import Crypto.Tactics.VerdiTactics.
-Require Import Coq.Logic.Decidable.
+Require Import Coq.Logic.Decidable Crypto.Util.Decidable.
 Require Import Coq.omega.Omega.
 
 (* TODO: move to PrimeFieldTheorems *)
-Lemma minus1_is_square {q} :  prime q -> (q mod 4)%Z = 1%Z -> isSquare (opp 1 : F q)%F.
+Lemma minus1_is_square {q} :  prime q -> (q mod 4)%Z = 1%Z -> (exists y, y*y  = opp (ZToField q 1))%F.
```
Comment (JasonGross) [inline src/Experiments/SpecEd25519.v]: Nit: extra space before the `=`

Comment (JasonGross) [inline src/Experiments/SpecEd25519.v]: Also after the `:`

File: src/Experiments/SpecEd25519.v [hunk 8]
```diff
@@ -8,44 +8,43 @@ Require Import Crypto.ModularArithmetic.PrimeFieldTheorems Crypto.ModularArithme
...
 
 Definition a : F q := opp 1%F.
-Lemma nonzero_a : a <> 0%F. Proof. rewrite F_eq; compute; discriminate. Qed.
+Lemma nonzero_a : a <> 0%F. Proof. vm_decide_no_check. Qed.
 Lemma square_a : exists b, (b*b=a)%F.
-Proof. setoid_rewrite <-F_pow_2_r. apply (minus1_is_square _); reflexivity. Qed.
+Proof. pose (@Zmod.Decidable_square q _ two_lt_q a); vm_decide_no_check. Qed.
+Definition d : F q := (opp (ZToField _ 121665) / (ZToField _ 121666))%F.
+
+(* TODO: move to Decidable *)
```
Comment (JasonGross) [inline src/Experiments/SpecEd25519.v]: Why not move it now?

File: src/Experiments/SpecEd25519.v [hunk 9]
```diff
@@ -8,44 +8,43 @@ Require Import Crypto.ModularArithmetic.PrimeFieldTheorems Crypto.ModularArithme
...
+Lemma not_not P {d:Decidable P} : not (not P) <-> P.
+Proof. destruct (dec P); intuition. Qed.
```
Comment (JasonGross) [inline src/Experiments/SpecEd25519.v]: Don't use `intuition` without importing `Util.FixCoqMistakes`

File: src/Experiments/SpecEd25519.v [hunk 10]
```diff
@@ -8,44 +8,43 @@ Require Import Crypto.ModularArithmetic.PrimeFieldTheorems Crypto.ModularArithme
...
+  
+Global Instance dec_ex_forall_not T (P:T->Prop) {d:Decidable (exists b, P b)} : Decidable (forall b, ~ P b).
```
Comment (JasonGross) [inline src/Experiments/SpecEd25519.v]: This too belongs in `Decidable.v`, right?

File: src/ModularArithmetic/ModularArithmeticTheorems.v [hunk 11]
```diff
@@ -68,680 +34,326 @@ Ltac demod :=
...
-  Qed.
-
-  (* Redefine our division theory under the ring morphism *)
-  Lemma Fmorph_div_theory:
+  lazy iota beta delta [add sub mul opp FieldToZ ZToField proj1_sig] in *;
+  try apply eqsig_eq;
+  demod.
+
+(* FIXME: remove the pose proof once [monoid] no longer contains decidable equality *)
+Global Instance eq_dec {m} : DecidableRel (@eq (F m)). pose proof dec_eq_Z. exact _. Defined.
```
Comment (JasonGross) [inline src/ModularArithmetic/ModularArithmeticTheorems.v]: Maybe you want `eq_dec_F` or `F_dec_eq` as a name?

File: src/ModularArithmetic/ModularArithmeticTheorems.v [hunk 12]
```diff
@@ -68,680 +34,326 @@ Ltac demod :=
...
+
+    Lemma square_iff (x:F m) :
+      (exists y : F m, y * y = x) <-> (exists y : Z, y * y mod m = x)%Z.
+    Proof.
+      setoid_rewrite eq_FieldToZ_iff; setoid_rewrite FieldToZ_mul; split; intro H; destruct H as [x' H].
+      - eauto.
+      - exists (ZToField _ x'); rewrite !FieldToZ_ZToField; demod; auto.
+    Qed.
+
+    (* TODO: move to ZUtil *)
```
Comment (JasonGross) [inline src/ModularArithmetic/ModularArithmeticTheorems.v]: Why not move now?

File: src/ModularArithmetic/ModularArithmeticTheorems.v [hunk 13]
```diff
@@ -68,680 +34,326 @@ Ltac demod :=
...
+    Lemma sub_intersperse_modulus : forall x y, ((x - y) mod m = (x + (m - y)) mod m)%Z.
+    Proof.
+      intros.
+      replace (x + (m - y))%Z with (m+(x-y))%Z by omega.
```
Comment (JasonGross) [inline src/ModularArithmetic/ModularArithmeticTheorems.v]: Shorter proof: (if it works)
```coq
intros; push_Zmod; autorewrite with zsimplify; reflexivity
```
or else
```coq
intros; destruct (Z_zerop m); subst; push_Zmod; autorewrite with zsimplify; reflexivity.
```

Does one of these work?

File: src/ModularArithmetic/PrimeFieldTheorems.v [hunk 14]
```diff
@@ -10,568 +10,172 @@ Require Import Coq.ZArith.BinInt Coq.NArith.BinNat Coq.ZArith.ZArith Coq.ZArith.
...
-    assert ((x / y) ^ 2 = x ^ 2 / y ^ 2) as square_distr_div by (field; trivial).
-    assert (y ^ 2 <> 0) as y2_nonzero by (
-      change (2%N) with (1+(1+0))%N;
-      rewrite !(proj2 (@F_pow_spec q _) _), !(proj1 (@F_pow_spec q _));
-      auto 10 using Fq_mul_nonzero_nonzero, Fq_1_neq_0).
-    rewrite (Fq_mul_eq _ z (y ^ 2)); auto.
-    rewrite <- A.
-    field; trivial.
-  Qed.
+    (* TODO: move to number thoery util *)
```
Comment (JasonGross) [inline src/ModularArithmetic/PrimeFieldTheorems.v]: Why not move this now?

**Comment by JasonGross** [comment]
Where's the extra argument to `ZToField` coming from?

**Comment by JasonGross** [comment]
Modulo my concern with using `intuition`, I'm fine with this being merged.  Addressing the other comments I made would be nice, though.

File: src/ModularArithmetic/ModularArithmeticTheorems.v (hunk 11 above)
Comment (andres-erbsen) [inline src/ModularArithmetic/ModularArithmeticTheorems.v]: Would moving it inside the module help?

**Comment by andres-erbsen** [comment]
ZToField used to have its first argument (the target modulus) marked as implicit and maximally inserted. Yet it was often specified manually, and caused very slow type inference in some situations. Since now have notations for `1` and `0`, `ZToField` is used even less with an implicit argument. I could change it back if there is a good reason to keep the argument implicit.

File: src/Algebra.v (hunk 5 above)
Comment (andres-erbsen) [inline src/Algebra.v]: done.

File: src/Encoding/ModularWordEncodingTheorems.v (hunk 6 above)
Comment (andres-erbsen) [inline src/Encoding/ModularWordEncodingTheorems.v]: There is a lemma exactly like that. Fixed.

**Comment by JasonGross** [comment]
Seems reasonable, no need to change it back.

File: src/ModularArithmetic/ModularArithmeticTheorems.v (hunk 12 above)
Comment (andres-erbsen) [inline src/ModularArithmetic/ModularArithmeticTheorems.v]: This lemma was dead code, I deleted it.

File: src/ModularArithmetic/ModularArithmeticTheorems.v (hunk 13 above)
Comment (andres-erbsen) [inline src/ModularArithmetic/ModularArithmeticTheorems.v]: I deleted `sub_intersperse_modulus`.

File: src/ModularArithmetic/PrimeFieldTheorems.v (hunk 14 above)
Comment (andres-erbsen) [inline src/ModularArithmetic/PrimeFieldTheorems.v]: moved.

**Comment by andres-erbsen** [comment]
Should the name of the module be `Zmod` (which is also an alias for `Z.modulo`), `Znz` (which is also a standard library module), `F` (which is confusing when `m` is not prime and the structure is not a field) or something else?

File: src/ModularArithmetic/ModularArithmeticTheorems.v (hunk 11 above)
Comment (JasonGross) [inline src/ModularArithmetic/ModularArithmeticTheorems.v]: Sure, if you want to stick it in a module that you generally don't import and use primarily for namespacing, that seems fine.

File: src/Experiments/SpecEd25519.v (hunk 7 above)
Comment (andres-erbsen) [inline src/Experiments/SpecEd25519.v]: fixed.

File: src/Experiments/SpecEd25519.v (hunk 8 above)
Comment (andres-erbsen) [inline src/Experiments/SpecEd25519.v]: moved.

File: src/Experiments/SpecEd25519.v (hunk 9 above)
Comment (andres-erbsen) [inline src/Experiments/SpecEd25519.v]: fixed.

File: src/Experiments/SpecEd25519.v (hunk 10 above)
Comment (andres-erbsen) [inline src/Experiments/SpecEd25519.v]: yep, moved

File: src/ModularArithmetic/ModularArithmeticTheorems.v [hunk 15]
```diff
@@ -2,746 +2,346 @@ Require Import Coq.omega.Omega.
...
+  (* Fails iff the input term does some arithmetic with mod'd values. *)
+  Ltac notFancy E :=
+    match E with
+    | - (_ mod _) => idtac
+    | context[_ mod _] => fail 1
+    | _ => idtac
+    end.
+  
+  (* Remove redundant [mod] operations from the conclusion. *)
+  Ltac demod :=
```
Comment (JasonGross) [inline src/ModularArithmetic/ModularArithmeticTheorems.v]: This looks very similar to `pull_Zmod` in `Util.ZUtil`.  I'd suggest seeing if you can just use that.

**Comment by JasonGross** [comment]
Regarding naming, I'd suggest `F`, given that everything is about applying `F` to things?  (I'd expect a namespace about `Z.modulo` to be part of a `ZUtil` hierarchy.)

File: src/ModularArithmetic/ModularArithmeticTheorems.v (hunk 15 above)
Comment (JasonGross) [inline src/ModularArithmetic/ModularArithmeticTheorems.v]: Though you may have to adjust `has_no_mod` to have a case
```coq
  | -(?x' mod z) => has_no_mod x' z
```

Comment (JasonGross) [inline src/ModularArithmetic/ModularArithmeticTheorems.v]: Actually, better, I can just write a lemma to handle that case

File: src/ModularArithmetic/ModularArithmeticTheorems.v [hunk 16]
```diff
@@ -2,746 +2,346 @@ Require Import Coq.omega.Omega.
...
+    Proof.
+      constructor; intros; unfold quotrem, id.
+
+      replace (Z.quotrem a b) with (Z.quot a b, Z.rem a b) by
+          try (unfold Z.quot, Z.rem; rewrite <- surjective_pairing; trivial).
+
+      unwrap_F; rewrite <-Z.quot_rem'; trivial.
+    Qed.
+
+    Lemma Z_mod_opp_equiv : forall x y m,  x  mod m = (-y) mod m ->
```
Comment (JasonGross) [inline src/ModularArithmetic/ModularArithmeticTheorems.v]: This belongs in ZUtil

File: src/ModularArithmetic/ModularArithmeticTheorems.v [hunk 17]
```diff
@@ -2,746 +2,346 @@ Require Import Coq.omega.Omega.
...
+                                           (-x) mod m =   y  mod m.
+    Proof.
+      intros.
+      rewrite <-Z.sub_0_l.
+      rewrite Zminus_mod. rewrite H.
+      rewrite ?Zminus_mod_idemp_l, ?Zminus_mod_idemp_r; f_equal.
+      destruct y; auto.
+    Qed.
+
+    Lemma Z_opp_opp : forall x : Z, (-(-x)) = x.
```
Comment (JasonGross) [inline src/ModularArithmetic/ModularArithmeticTheorems.v]: Exists as `Z.opp_involutive`

File: src/ModularArithmetic/ModularArithmeticTheorems.v [hunk 18]
```diff
@@ -2,746 +2,346 @@ Require Import Coq.omega.Omega.
...
+      destruct x; auto.
+    Qed.
+
+    Lemma Z_mod_opp : forall x m, (- x) mod m = (- (x mod m)) mod m.
```
Comment (JasonGross) [inline src/ModularArithmetic/ModularArithmeticTheorems.v]: As of 85dae05, this is `Z.opp_mod_mod` in `ZUtil`

**Comment by JasonGross** [comment]
LGTM modulo travis.  Feel free to implement my suggestions and then merge, or merge as-is if it builds with 8.4 and 8.5.

**Comment by andres-erbsen** [comment]
The naming question here is also open for `F` -- currently, the `F` type is not a field if it is given a non-prime parameter, `ModularArithmeticTheorems` does not assume `m` is a prime, `PrimeFieldTheorems` does.

File: src/ModularArithmetic/ModularArithmeticTheorems.v (hunk 15 above)
Comment (andres-erbsen) [inline src/ModularArithmetic/ModularArithmeticTheorems.v]: This does not seem to be working out for me right now. Let's not do this in this PR. Later, though, I think this is a good idea.

Comment (JasonGross) [inline src/ModularArithmetic/ModularArithmeticTheorems.v]: Okay, maybe leave a TODO in a comment then?

File: src/Spec/ModularArithmetic.v [hunk 19]
```diff
@@ -18,50 +20,45 @@ Infix "^" := BinInt.Z.pow : Z_scope.
 Infix "mod" := BinInt.Z.modulo (at level 40, no associativity) : Z_scope.
 Local Open Scope Z_scope.
 
-Definition F (modulus : BinInt.Z) := { z : BinInt.Z | z = z mod modulus }.
-Definition ZToField {m} (a:BinNums.Z) : F m := exist _ (a mod m) (Pre.Z_mod_mod a m).
-Coercion FieldToZ {m} (a:F m) : BinNums.Z := proj1_sig a.
+Module F.
+  Definition F (m : BinInt.Z) := { z : BinInt.Z | z = z mod m }.
+  Local Obligation Tactic := auto using Pre.Z_mod_mod.
```
Comment (JasonGross) [inline src/Spec/ModularArithmetic.v]: In 8.6, and I think also 8.5, you need `cbv beta; auto using Pre.Z_mod_mod` here.  See https://coq.inria.fr/bugs/show_bug.cgi?id=4339

File: src/ModularArithmetic/ModularArithmeticTheorems.v (hunk 15 above)
Comment (JasonGross) [inline src/ModularArithmetic/ModularArithmeticTheorems.v]: Oh, it's not working because `lia` can't prove that `m <> 0`.  I'll update the tactic I have to not need this assumption, I guess.  (Though tactics proving things about `_ mod 0` is perhaps slightly sketchy?)

Comment (JasonGross) [inline src/ModularArithmetic/ModularArithmeticTheorems.v]: I'll be pushing a commit momentarily that lets you replace `demod` with `pull_Zmod` and it seems to work.  (It also might cause a slight merge conflict because I had to remove a line in `ModularArithmeticTheorems` because `Fdefn` got more powerful because I added a few hints to `zarith`.

Comment (andres-erbsen) [inline src/ModularArithmetic/ModularArithmeticTheorems.v]: Thanks. I do think proving things about `_ mod 0` is sketchy, but I don't think adding the precondition to all lemmas about `mod` is not much better. Maybe one day `mod` and `div` can take in something like `{ z:Z | is_nonzero z = true }` as the second argument without it being a pain all over the place...

File: src/ModularArithmetic/ModularArithmeticTheorems.v (hunk 16 above)
Comment (andres-erbsen) [inline src/ModularArithmetic/ModularArithmeticTheorems.v]: It was dead code, I threw it out.

File: src/ModularArithmetic/ModularArithmeticTheorems.v (hunk 17 above)
Comment (andres-erbsen) [inline src/ModularArithmetic/ModularArithmeticTheorems.v]: Noted, lemma removed.

File: src/ModularArithmetic/ModularArithmeticTheorems.v (hunk 18 above)
Comment (andres-erbsen) [inline src/ModularArithmetic/ModularArithmeticTheorems.v]: Thanks!

**Comment by andres-erbsen** [comment]
I incorporated the latest feedback, merged manually, tested with 8.4pl6 and 8.5pl2 locally and pushed to master. If you have any further suggestions about this code, file an issue.

File: src/ModularArithmetic/ModularArithmeticTheorems.v (hunk 15 above)
Comment (JasonGross) [inline src/ModularArithmetic/ModularArithmeticTheorems.v]: Much better would be for it to take  `positive` rather than `Z` or similar
